* Folded-Cascode OTA testbench
.lib ${SKY130_PDK} tt
.options GMIN=1e-10 RELTOL=1e-4 ABSTOL=1e-12

.subckt FOLDED_CASCODE_OTA VSS VDD VOUT VINN VINP VBN VBP VTAIL 
    * PMOS differential input pair
    XM1 N1 VINP VTAIL VDD sky130_fd_pr__pfet_01v8 w=6.72 l=0.15
    XM2 N2 VINN VTAIL VDD sky130_fd_pr__pfet_01v8 w=6.72 l=0.15
    
    * NMOS folding devices
    XM3 N1 VBN NC1 VSS sky130_fd_pr__nfet_01v8 w=6.72 l=0.15
    XM4 N2 VBN NC2 VSS sky130_fd_pr__nfet_01v8 w=6.72 l=0.15
    
    * NMOS cascode (bottom)
    XM5 NC1 VBN VSS VSS sky130_fd_pr__nfet_01v8 w=33.6 l=0.15
    XM6 NC2 VBN VSS VSS sky130_fd_pr__nfet_01v8 w=33.6 l=0.15
    
    * PMOS current mirror loads
    XM7 N1 N1 NP1 VDD sky130_fd_pr__pfet_01v8 w=33.6 l=0.15
    XM8 N2 N1 NP2 VDD sky130_fd_pr__pfet_01v8 w=33.6 l=0.15
    
    * PMOS cascode (top)
    XM9  NP1 VBP VDD VDD sky130_fd_pr__pfet_01v8 w=33.6 l=0.15
    XM10 NP2 VBP VDD VDD sky130_fd_pr__pfet_01v8 w=33.6 l=0.15
    
    * Output connection
    ROUT N2 VOTA_OUT 0.01
    
    * Sallen-Key Low-Pass Filter
    R1 VOTA_OUT VNODE1 1500
    R2 VNODE1 VBUF_IN 1500
    C2 VBUF_IN VSS 2.388e-11
    C1 VNODE1 VOUT 2.388e-11

    * DC bias for VBUF_IN (caps block DC, node would float without this)
    RBIAS VBUF_IN VSS 10G

    * Unity-gain buffer
    EBUFFER VOUT VSS VBUF_IN VSS 1.0
    RBUF_OUT VOUT VFINAL_OUT 0.01
    .ends FOLDED_CASCODE_OTA

* Rails - Use voltage sources to measure current
VVDD  VDD_NODE   0   DC 1.8
VVSS  VSS_NODE   0   DC 0

* Bias voltages
VBN   VBN_NODE   0   DC 0.7
VBP   VBP_NODE   0   DC 1.0

* Differential inputs
VINP  VINP_NODE  0   DC 0.9 AC 0.5
VINN  VINN_NODE  0   DC 0.9 AC -0.5

* Tail current - Use 0V voltage source to measure current
VTAIL VDD_NODE VTAIL_NODE DC 0
ITAIL_SRC VTAIL_NODE 0 DC 10e-6

* DUT and load
XOTA  VSS_NODE VDD_NODE VOUT_NODE VINN_NODE VINP_NODE VBN_NODE VBP_NODE VTAIL_NODE FOLDED_CASCODE_OTA
CLOAD VOUT_NODE VSS_NODE 1e-12

.op
.ac dec 200 1 10G

* Measurements
.measure ac dc_gain_db max vdb(VOUT_NODE)
.measure ac ugbw when vdb(VOUT_NODE)=0 fall=1

.control
set noaskquit
op
ac dec 200 1 10G

* Power measurement
let power_dc = abs(i(VVDD)[0]) * 1.8 * 100
print power_dc

* AC gain
let vout_ac = ac1.v(VOUT_NODE)
let gain_linear = mag(vout_ac[0])
let gain_db = 20*log(gain_linear)/log(10)
print gain_db

* UGBW
let vout_mag = mag(vout_ac)
let freq_vec = frequency
let gain_db_vec = 20*log(vout_mag)/log(10)

let idx = 0
let ugbw_hz = 0
while idx < length(gain_db_vec) - 1
  if (gain_db_vec[idx] > 0) & (gain_db_vec[idx+1] < 0)
    let ugbw_hz = freq_vec[idx]
    print ugbw_hz
    break
  end
  let idx = idx + 1
end

quit
.endc
.end
